US09284296B2
Sodium thiomethoxide (1.06 g, 15.2 mmol) was added at 25° C. to 4-Nitro-[2,2′]bipyridinyl 1-oxide (3.0 g, 13.8 mmol) in dimethyl formamide (15 mL) and stirred for 2 hours at 50° C. The reaction mixture was added into ice (200 g) under vigorous stirring, the solid formed was filtered and washed with water (100 mL) and ether (100 mL), the filtrate was concentrated, diluted with water, extracted with dichloromethane (3×100 mL), dried with anhydrous sodium sulphate, filtered and concentrated under reduced pressure. The crude was purified by column chromatography on silica gel (0-100% Ethyl acetate in Hexane) to afford 4-methylsulfanyl-[2,2′]bipyridinyl 1-oxide as a white solid (650.0 mg, 22%).

reactant | Sodium thiomethoxide | 15.2 mmol, 1.06 g | C[S-].[Na+]
reactant | 4-Nitro-[2,2′]bipyridinyl 1-oxide | 13.8 mmol, 3.0 g | [N+](=O)([O-])C=1C=C([N+](=CC1)[O-])C1=NC=CC=C1 | C10H7N3O3
solvent | dimethyl formamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-methylsulfanyl-[2,2′]bipyridinyl 1-oxide | 650.0 mg, 22% | CSC=1C=C([N+](=CC1)[O-])C1=NC=CC=C1 | C11H10N2OS
